US09059412B2
Into a solution of N3-phenylbenzo[b]thiophene-2,3-diamine (16 g, 66.7 mmol) in trimethoxymethane (200 ml) was added formic acid (1.5 ml, 42.3 mmol) at room temperature. The reaction mixture was subsequently heated at 120° C. for 6 h. After cooling to room temperature, it was quenched with aqueous NaHCO3 solution and extracted with ethyl acetate. Upon evaporation off the solvent, the residue was purified by chromatography on silica gel with hexane/EtOAc (95/5, v/v) as eluent to yield 1-phenyl-1H-benzo[4,5]thieno[2,3-d]imidazole (9.0 g, 54%) as a solid.

reactant | N3-phenylbenzo[b]thiophene-2,3-diamine | 66.7 mmol, 16 g | C1(=CC=CC=C1)NC=1C2=C(SC1N)C=CC=C2 | C14H12N2S
reactant | formic acid | 42.3 mmol, 1.5 ml | C(=O)O | CH2O2
solvent | trimethoxymethane | 200 ml | COC(OC)OC | C4H10O3
product | 1-phenyl-1H-benzo[4,5]thieno[2,3-d]imidazole | 9.0 g, 54% | C1(=CC=CC=C1)N1C=NC2=C1C1=C(S2)C=CC=C1 | C15H10N2S
